US04588749
N-(2-(4-Methylphenyl)-1-methylethyl)-2-hydroxy-2-(3-ethylphenyl)ethanamine
The title compound was prepared as described in Example 3 using 2-hydroxy-2-(3-ethylphenyl)ethanamine and (4-methylphenyl)propanone. The residual oil was chromatographed on Kieselgel 60. Elution with 2% methanolchloroform gave the title compound, isolated as the hydrochloride salt, as a 54:46 mixture of diastereoisomers m.p. 97-104. τ(d6DMSO) 8.85 (3H, d, J=6 Hz), 8.8 (3H, d, J=6 Hz), 7.7 (3H, s), 7.4 (2H, q, =6 Hz), 6.3-7.2 (5H, m), 4.9 (1H, m), 3.8 (1H, broad, disappears with D2O), 2.8 (4H, s), 2.6-2.8 (4H, m), 1.1+0.2 (2H, broad, both disappear with D2O).

reactant | 2-hydroxy-2-(3-ethylphenyl)ethanamine | OC(CN)C1=CC(=CC=C1)CC | C10H15NO
reactant | (4-methylphenyl)propanone | CC1=CC=C(C=C1)CC(C)=O | C10H12O
product | N-(2-(4-Methylphenyl)-1-methylethyl)-2-hydroxy-2-(3-ethylphenyl)ethanamine | CC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)CC)O | C20H27NO
